US20010006969A1
2-Allylamino-7-methyl-4-(2-methyl-2-propenylamino)thieno[ 3,2-d]pyrimidine
305 mg (1.2 mmol) of 2-chloro-7-methyl-4-(2-methyl-2-propenylamino)thieno[ 3,2-d]pyrimidine and 1.14 g (19.2 mmol) of allylamine were heated in a sealed tube at 160° C. for 16 hours. After completion of the reaction, the reaction mixture was allowed to resume room temperature, followed by adding a saturated aqueous sodium hydrogen carbonate solution thereto and extraction with ethyl acetate (50 ml×2). After the organic layer was washed with brine and dried over anhydrous sodium sulfate, the solvent was distilled off. The residue was purified by silica gel chromatography (eluent: ethyl acetate-hexane =¼) to give 108 mg (yield: 32.7%) of the title compound.

reactant | 2-chloro-7-methyl-4-(2-methyl-2-propenylamino)thieno[ 3,2-d]pyrimidine | 1.2 mmol, 305 mg | ClC=1N=C(C2=C(N1)C(=CS2)C)NCC(=C)C | C11H12ClN3S
reactant | allylamine | 19.2 mmol, 1.14 g | C(C=C)N | C3H7N
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | 2-Allylamino-7-methyl-4-(2-methyl-2-propenylamino)thieno[ 3,2-d]pyrimidine | 108 mg, yield: 32.7% | C(C=C)NC=1N=C(C2=C(N1)C(=CS2)C)NCC(=C)C | C14H18N4S
